US08748461B2
3-(Bromomethyl)-2-fluorobenzonitrile (I-6)
To a stirred solution of 2-fluoro-3-methylbenzonitrile (200 mg, 1.5 mmol) in 1,2-dichloroethane (30 ml) was added NBS (266 mg, 1.49 mmol) and AIBN (29 mg, 0.15 mmol) at RT. The reaction mixture was then heated to 80° C., and the reaction mixture was stirred for 2 h. After complete consumption of the starting material (by TLC), the reaction mixture was cooled to RT. The volatiles were removed under reduced pressure to obtain the crude material. Purification by silica gel column chromatography eluting with 2-3% EtOAc/hexane afforded compound I-6 (250 mg, 1.15 mmol, 78%) as colorless liquid. 1H NMR (500 MHz, CDCl3): δ 7.69-7.65 (m, 1H), 7.62-7.58 (m, 1H), 7.28-7.25 (m, 1H), 4.50 (s, 2H).

reactant | 2-fluoro-3-methylbenzonitrile | 1.5 mmol, 200 mg | FC1=C(C#N)C=CC=C1C | C8H6FN
reactant | NBS | 1.49 mmol, 266 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | AIBN | 0.15 mmol, 29 mg | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
solvent | 1,2-dichloroethane | 30 ml | ClCCCl | C2H4Cl2
product | 3-(Bromomethyl)-2-fluorobenzonitrile | BrCC=1C(=C(C#N)C=CC1)F | C8H5BrFN
